US04054655
2-t-Butylamino-3-chloro-5,6-dicyanopyrazine
t-Butylamine, 7.3 g (.1 mole), in 50 ml of dry tetrahydrofuran was added dropwise under nitrogen to a solution of 10 g (0.05 mole) of 2,3-dichloro-5,6-dicyanopyrazine in 100 ml of tetrahydrofuran. The rate of addition was controlled so that the reactants did not exotherm to greater than 35° C. When the addition was complete, the reactants were stirred an additional half hour and then poured into 1 l. of water. After adjusting the pH to 1-2 with 10% HCl, the precipitated product was filtered and washed thoroughly with water. Crude product after drying was twice recrystallized from 1-chlorobutane to give light yellow crystals having a mp of 169°-173° C.

reactant | t-Butylamine | C(C)(C)(C)N | C4H11N
reactant | 2,3-dichloro-5,6-dicyanopyrazine | 0.05 mole, 10 g | ClC1=NC(=C(N=C1Cl)C#N)C#N | C6Cl2N4
reactant | water | O | H2O
reactant | HCl | Cl | ClH
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 2-t-Butylamino-3-chloro-5,6-dicyanopyrazine | C(C)(C)(C)NC1=NC(=C(N=C1Cl)C#N)C#N | C10H10ClN5
